US07601844B2
N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3,3-dimethyl-1-oxobutan-2-yl)benzamide
A reaction tube was charged with HOBt (13 mg), benzoic acid (9 mg) and EDC (18 mg) in DMF (0.75 mL) and then agitated for 15 min. After this time, a solution of 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3,3-dimethylbutan-1-one hydrochloride (21 mg) in DIEA (65 μL) and DMF (185 μL) was added to the tube and the reaction mixture was shaken overnight at rt. At the conclusion of this period, the resulting solution was diluted with MeOH and purified by preparative LC-MS to provide Example 194. MS found: (M+H)+=414.

reactant | HOBt | 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | benzoic acid | 9 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDC | 18 mg
reactant | 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3,3-dimethylbutan-1-one hydrochloride | 21 mg | Cl.NC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)(C)C
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | DIEA | 65 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 185 μL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3,3-dimethyl-1-oxobutan-2-yl)benzamide | ClC1=CC=C(C=C1)C1CCN(CC1)C(C(C(C)(C)C)NC(C1=CC=CC=C1)=O)=O | C24H29ClN2O2
